US06531502B1
3-Bromo-4-methoxybenzaldehyde was condensed with 6-acetamido-2-oxindole to give N-[3-(3-bromo-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide.

reactant | 3-Bromo-4-methoxybenzaldehyde | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | 6-acetamido-2-oxindole | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
product | N-[3-(3-bromo-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide | BrC=1C=C(C=C2C(NC3=CC(=CC=C23)NC(C)=O)=O)C=CC1OC | C18H15BrN2O3
